US06562849B1
1-(4-Chlorophenyl)-3-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]-2,6-dimethylphenyl)thiourea (exemplification compound number 1-312)
A mixture of 5-[4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (288 mg), 4-chlorophenyl isothiocyanate (102 mg), triethylamine (121 mg) and anhydrous tetrahydrofuran (10 ml) was stirred at room temperature for 23 hours. The reaction mixture was concentrated and diluted with water. The precipitate was isolated by filtration and then chromatographed on a silica gel column using ethyl acetate:n-hexane=3:1 as the eluant to afford the title compound (215 mg, mp 160-162° C.).

reactant | 5-[4-[6-(4-amino-3,5-dimethylphenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 288 mg | Cl.Cl.NC1=C(C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1C)C
reactant | 4-chlorophenyl isothiocyanate | 102 mg | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | triethylamine | 121 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-Chlorophenyl)-3-(4-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]-2,6-dimethylphenyl)thiourea | 215 mg | ClC1=CC=C(C=C1)NC(=S)NC1=C(C=C(C=C1C)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C)C1)C | C34H30ClN5O4S2
